US05462960
B) N-(2,6-Dimethylpiperidin-1-yl)-5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)pyrazole-3-carboxamide hydrochloride
This compound is prepared by the procedure described in EXAMPLE 1 starting from 1-amino-2,6-dimethylpiperidine and 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)pyrazole-3-carboxylic acid chloride. M.p.=195° C.

reactant | 1-amino-2,6-dimethylpiperidine | NN1C(CCCC1C)C | C7H16N2
reactant | 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)pyrazole-3-carboxylic acid chloride | ClC1=CC=C(C=C1)C1=CC(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)Cl | C16H8Cl4N2O
product | N-(2,6-Dimethylpiperidin-1-yl)-5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)pyrazole-3-carboxamide hydrochloride | Cl.CC1N(C(CCC1)C)NC(=O)C1=NN(C(=C1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | InChI=1S/C23H23Cl3N4O.ClH/c1-14-4-3-5-15(2)29(14)28-23(31)20-13-22(16-6-8-17(24)9-7-16)30(27-20)21-11-10-18(25)12-19(21)26;/h6-15H,3-5H2,1-2H3,(H,28,31);1H
